US04493844
Under a dry nitrogen atmosphere a stirred mixture of 6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-carbonitrile (1.0 gram, 0.0045 mole) in ethanol (20 ml) and 10% aqueous sodium hydroxide (20 ml) was heated at reflux for two days. The mixture was cooled and poured into dilute hydrochloric acid (150 ml). The resulting mixture was extracted with five 100 ml portions of methylene chloride and the extracts combined. The combined extracts were washed with two 100 ml portions of water, dried over anhydrous magnesium sulfate and filtered. The solvent was removed from the filtrate by distillation under reduced pressure to leave 6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-carboxamide as a white solid (1.1 grams, mp>250°).

reactant | 6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-carbonitrile | 0.0045 mole, 1.0 gram | C1=CC=C(C2=C1C1=C(CCC2)C=CC=C1)C#N | C16H13N
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-carboxamide | 1.1 grams | C1=CC=C(C2=C1C1=C(CCC2)C=CC=C1)C(=O)N | C16H15NO
